US07402684B2
4-Pyridin-3-yl-phenol:
3-(4-Benzyloxy-phenyl)-pyridine 1.15 g, 4.4 mmol) in EtOH/THF (10 mL/25 mL) was treated with 10% Pd on carbon (1.5 g) over period of 48 h at rt under H 2 balloon, Reaction mixture was filtered through Celite and concentrated to obtain the product (700 mg, 93%).

reactant | 3-(4-Benzyloxy-phenyl)-pyridine | 4.4 mmol, 1.15 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=NC=CC1 | C18H15NO
solvent | EtOH THF | 10 mL | CCO.C1CCOC1
catalyst | Pd on carbon | 1.5 g | [Pd] | Pd
product | 4-Pyridin-3-yl-phenol | 700 mg, 93% | N1=CC(=CC=C1)C1=CC=C(C=C1)O | C11H9NO
